US05948788
A solution of codeine (30 g, 100.2 mmol), acetic anhydride (18.4 g, 180.2 mmol), triethylamine (18.25 g, 180.2 mmol) and 4-dimethylaminopyridine (0.5 g) in dry ethyl acetate (620 ml) was stirred at rt. under nitrogen for 12 hr, added saturated aqueous sodium bicarbonate solution until no acetic anhydride detected. The organic portion was separated, washed with water (3×120 ml), dried over anhydrous sodium sulfate, and evaporated in vacuo to dryness to give 6-acetylcodeine as white solids (34.0 g, 99% yield). IR (KBr)(ν, cm-1): 1725 (st, sharp, 3-AcO); NMR (δH)(CDCl13): 6.66 (1, d, J, 8.2, 2-H), 6.53 (1, d, J, 8.2, 1-H), 5.63 (1, ddd, J, 10.0, 2.4 & 1.0, 7-H), 5.42 (1, dt, J, 9.9 & 2.3, 8-H), 5.22-5.51 (1, m, 6-H), 5.06 (dd, J, 6.7 & 1.0, 5-H), 3.85 (3, s, 3-OCH3), 3.39 (1, dd, J, 6.0 & 3.3, 9-H), 3.03 (1, d, Jjem, 18.6, 10-Hβ), 2.78 (1, dd, J, 5.2 & 2.6, 14-H), 2.63 (1, dd, J, 11.9 & 4.6, 16-Ha), 2.45 (3, s, N--CH3), 2.40 (1, td, J, 12.0 & 3.8, 16-He), 2.33 (1, dd, J, 18.5 & 6.0, 10-Hα), 2.15 (3, s, 6-OAc), 2.06 (1, td, J, 12.0 & 5.0, 15-Ha) and 1.85 (1, dm, J, 12.0, 15-He).

reactant | codeine | 100.2 mmol, 30 g | CN1CC[C@]23C4=C5C=CC(=C4O[C@H]2[C@H](C=C[C@H]3[C@H]1C5)O)OC | C18H21NO3
reactant | acetic anhydride | 180.2 mmol, 18.4 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | triethylamine | 180.2 mmol, 18.25 g | C(C)N(CC)CC | C6H15N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
catalyst | 4-dimethylaminopyridine | 0.5 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | ethyl acetate | 620 ml | C(C)(=O)OCC | C4H8O2
product | 6-acetylcodeine | 34.0 g, 99% yield | CC(=O)O[C@H]1C=C[C@H]2[C@H]3CC4=C5[C@]2([C@H]1OC5=C(C=C4)OC)CCN3C | C20H23NO4
